US07538128B2
Step 1: (3R)-N-BOC-3-Hydroxypyrrolidine:
A solution of di-tert-butyl dicarbonate (7.5 g, 34.40 mmol) in THF (50 ml) was added (10 min) to a stirred solution of (R)-(+)-3-pyrrolidinol (2.5 g, 28.70 mmol) and triethylamine (6.0 g, 57.40 mmol) in THF (60 ml) at room temperature. The reaction mixture was stirred for another 18 h at room temperature. The solvent was evaporated under reduced pressure and the residue was diluted with EtOAc (200 ml) and washed with water (2×100 ml) and brine (100 ml). The EtOAc extract was dried (Na2SO4) and evaporated under reduced pressure to give 4.0 g of the product as a white solid; IR (neat) 3422, 2977, 1676, 1420, 1167 cm−1; 1H NMR (CDCl3, 300 MHz) δ 1.46 (s, 9H), 1.93-2.08 (m, 2H), 3.34-3.49 (m, 4H), 4.43-4.48 (m, 1H).

reactant | di-tert-butyl dicarbonate | 34.40 mmol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-(+)-3-pyrrolidinol | 28.70 mmol, 2.5 g | N1C[C@@H](CC1)O | C4H9NO
reactant | triethylamine | 57.40 mmol, 6.0 g | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (3R)-N-BOC-3-Hydroxypyrrolidine | 4.0 g | C(=O)(OC(C)(C)C)N1C[C@@H](CC1)O | C9H17NO3
